US07951954B2
b) {2-[3-(2-Hydroxy-ethyl)-phenyl]-ethyl}-(2-methoxy-ethyl)-carbamic acid tert-butyl ester
2M Lithium borohydride in tetrahydrofuran solution (0.7 mL) was added to a solution of (3-{2-[tert-butoxycarbonyl-(2-methoxy-ethyl)-amino]-ethyl}-phenyl)-acetic acid ethyl ester (230 mg) in tetrahydrofuran (10 mL) and heated to reflux for 1 hour. On cooling, the reaction was diluted with ethyl acetate and extracted sequentially, twice with saturated aqueous sodium bicarbonate solution, once with brine, dried over magnesium sulfate and evaporated, to give the subtitle compound as an oil (200 mg).

reactant | Lithium borohydride | 2M | [BH4-].[Li+]
reactant | (3-{2-[tert-butoxycarbonyl-(2-methoxy-ethyl)-amino]-ethyl}-phenyl)-acetic acid ethyl ester | 230 mg | C(C)OC(CC1=CC(=CC=C1)CCN(CCOC)C(=O)OC(C)(C)C)=O | C20H31NO5
solvent | tetrahydrofuran | 0.7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {2-[3-(2-Hydroxy-ethyl)-phenyl]-ethyl}-(2-methoxy-ethyl)-carbamic acid tert-butyl ester | 200 mg | C(C)(C)(C)OC(N(CCOC)CCC1=CC(=CC=C1)CCO)=O | C18H29NO4
